US08017626B2
Method 25: 2-(4-Hydroxy-1-methyl-2-oxo-7-(piperidin-1-yl)-1,2-dihydroquinoline-3-carboxamido)acetic acid
A solution of tent-butyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (205 mg, 498 μmol), Pd2dba3.CHCl3 (52 mg, 50 μmol). X-Phos (48 mg, 100 μmol) and piperidine (123 μl, 1246 μmol) in 1,4-dioxane (5 ml) was treated with sodium tert-butoxide (192 mg, 1994 μmol). The reaction was stirred at 80° C. in a sealed tube. After 15 hours, the solution was cooled to 23° C., adsorped onto silica gel, concentrated in vacuo and purified by silica gel chromatography (eluant: 5% methanol/dichloromethane, followed by 5% methanol/dichloromethane+1% AcOH), affording an yellow solid which was 83% pure. The impure solid was purified by RP HPLC (0-100% MeCN/water+1% TFA, 10 min), affording 83 mg (46%) of the product as an yellow solid.

reactant | butyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 498 μmol, 205 mg | BrC1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OCCCC)O | C17H19BrN2O5
reactant | CHCl3 | 50 μmol, 52 mg | C(Cl)(Cl)Cl | CHCl3
reactant | X-Phos | 100 μmol, 48 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | piperidine | 1246 μmol, 123 μl | N1CCCCC1 | C5H11N
reactant | sodium tert-butoxide | 1994 μmol, 192 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-Hydroxy-1-methyl-2-oxo-7-(piperidin-1-yl)-1,2-dihydroquinoline-3-carboxamido)acetic acid | 83 mg, 46% | OC1=C(C(N(C2=CC(=CC=C12)N1CCCCC1)C)=O)C(=O)NCC(=O)O | C18H21N3O5
